US04760158
1-Chloromethylcycloheptanecarbonitrile
A solution of cycloheptanecarbonitrile (12.3 g), 100 mmol) in THF (50 ml) was added dropwise to a well stirred solution of lithium diisopropylamide (105 mmol) in THF/hexane (75 ml/60 ml) under nitrogen, keeping the temperature at -65°. After 1 h, the solution was allowed to warm to ambient temperature and added dropwise to a well stirred solution of bromochloromethane (32.5 ml; 500 mmol) in THF (50 ml) under nitrogen keeping the temperature between -50° and -60°. After 10 min, the solution was allowed to warm to ambient temperature, poured into water (250 ml) and the aqueous mixture extracted with chloroform (3×150 ml). The extracts were washed with 2N-HCl (2×50 ml), saturated aq. NaHCO3 (100 ml), and water (100 ml), then dried (MgSO4) and evaporated under reduced pressure to give a brown oil (18.0 g). Distillation gave the title compound (12.65 g), b.p. 78°-80° at 0.25 mmHg.

reactant | cycloheptanecarbonitrile | 12.3 g | C1(CCCCCC1)C#N | C8H13N
reactant | lithium diisopropylamide | 105 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | bromochloromethane | 500 mmol, 32.5 ml | BrCCl | CH2BrCl
reactant | water | 250 ml | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF hexane | 75 ml | C1CCOC1.CCCCCC
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 1-Chloromethylcycloheptanecarbonitrile | 18.0 g | ClCC1(CCCCCC1)C#N | C9H14ClN
